US04680304
(A) 2-(2-Pyridyl)-imidazoline
8.3 Grams (80 mM) of 2-cyanopyridine was dissolved in 80 ml absolute ethanol and placed in a 250 ml round-bottom flask. 20 Ml of hydrazine hydrate (90%) in 30 ml of ethanol was added to it in one portion and stirred at room temperature for 5 hours. TLC (15:35 chloroform/n-pentane on silica gel) showed no starting material. The reaction mixture was then treated with 25 ml acetone and stirred for 1 hour. It was concentrated to about 100 ml, when a yellow precipitate formed. The latter was washed with water and filtered, to give 9.5 g (65%) yellow crystals. They were dried in vacuo overnight, after which the melting point was 95°-97° C.

reactant | 2-cyanopyridine | 80 mM | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | hydrazine hydrate | O.NN
reactant | chloroform n-pentane | C(Cl)(Cl)Cl.CCCCC
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(2-Pyridyl)-imidazoline | 9.5 g, 65% | N1=C(C=CC=C1)C=1NCCN1 | C8H9N3
